US07173031B2
A) Methyl 1-(4-fluorobenzyl)-2-oxo-1,2-dihydropyridine-3-carboxylate
A heterogeneous mixture of methyl 2-oxo-2H-pyran-3-carboxylate (2.0 g, 13 mmol, 1.0 eq, Aldrich) and 4-fluorobenzylamine (1.5 mL, 13 mmol, 1.0 eq) in DMF (10 mL) was stirred at room temperature for 3 h. The reaction mixture was treated with EDCI (3.4 g, 18 mmol, 1.4 eq) and DMAP (0.11 g, 9.91 mmol, 0.07 eq) at room temperature and the resulting solution was stirred for 12 h. The reaction mixture was quenched with 1 N aqueous HCl and the solution was extracted with ethyl acetate (4×50 mL). The combined organic extracts were washed with 10% aqueous LiCl (3×70 mL), dried (Na2SO4), filtered and the filtrate concentrated in vacuo to afford the product (2.5 g, 73%) as a solid, which was used without further purification. 1H NMR (DMSO-d6) δ 8.17–8.20 (m, 1H), 8.03–8.05 (m, 1H), 7.38–7.46 (m, 2H), 7.16–7.22 (m, 2H), 6.37 (dd, 1H, J=6.94 Hz), 5.13 (s, 2H), 3.73 (s, 3H); HRMS(ESI): calcd.: 262.0879, found: 262.0885.

reactant | methyl 2-oxo-2H-pyran-3-carboxylate | 13 mmol, 2.0 g, 1.0 eq | O=C1OC=CC=C1C(=O)OC | C7H6O4
reactant | 4-fluorobenzylamine | 13 mmol, 1.5 mL, 1.0 eq | FC1=CC=C(CN)C=C1 | C7H8FN
reactant | EDCI | 18 mmol, 3.4 g, 1.4 eq | CCN=C=NCCCN(C)C | C8H17N3
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
catalyst | DMAP | 9.91 mmol, 0.11 g, 0.07 eq | CN(C)C=1C=CN=CC1 | C7H10N2
product | Methyl 1-(4-fluorobenzyl)-2-oxo-1,2-dihydropyridine-3-carboxylate | 2.5 g, 73% | FC1=CC=C(CN2C(C(=CC=C2)C(=O)OC)=O)C=C1 | C14H12FNO3
